US08039458B2
N-t-Butoxycarbonyl-(4-fluoro-2-(methylthio)phenyl)methanamine.
A stirred solution of 4-fluoro-2-methylsulfanyl-benzylamine (5.1 g, 0.03 mol) and 3.3 g triethylamine in 100 mL CH2Cl2 under N2 was treated with di-t-butyl dicarbonate (7.2 g, 0.033 mol) portionwise and stirred at room temperature for 30 min. The reaction mixture was then washed with dilute (aqueous) HCl and water. The organic layer was dried over MgSO4, filtered and concentrated to leave 8.1 g (100% yield) of the title compound as a clear oil. 1H NMR (500 MHz, CDCl3) δ: 7.22-7.29 (1H, m) 6.89 (1H, dd, J=9.61, 2.29 Hz) 6.75-6.83 (1H, m) 4.93 (1H, s) 4.31 (2H, d, J=5.49 Hz) 2.47 (3H, s) 1.44 (9H, s). LC/MS (M+H): 272.

reactant | 4-fluoro-2-methylsulfanyl-benzylamine | 0.03 mol, 5.1 g | FC1=CC(=C(CN)C=C1)SC | C8H10FNS
reactant | triethylamine | 3.3 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 0.033 mol, 7.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-t-Butoxycarbonyl-(4-fluoro-2-(methylthio)phenyl)methanamine | 8.1 g, 100% yield | C(C)(C)(C)OC(=O)NCC1=C(C=C(C=C1)F)SC | C13H18FNO2S
